Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
latex / Erythromycin Base / Tetracycline / prednisone / Celebrex 
/ Sulfa (Sulfonamide Antibiotics) / codeine / hydrocodone / 
chlorthalidone
 
Attending: ___.
 
Chief Complaint:
grade 1 endometrial adenocarcinoma 
 
Major Surgical or Invasive Procedure:
ROBOTIC-ASSISTED TOTAL LAPAROSCOPIC HYSTERECTOMY, BILATERAL 
SALPINGO-OOPHORECTOMY, LEFT PELVIC SENTINEL LYMPH NODE 
DISSECTION

 
History of Present Illness:
From consultation with Dr. ___ on ___:

She is a lovely ___ gravida 0 with new diagnosis of 
grade 1 endometrial can she
initially presented with postmenopausal bleeding.  Isolated to a 
single day.  She did not seek evaluation for this.  However, 
over the summer she began having spotting, approximately every 
other day, and presented to you for evaluation of this.  
Evaluation
included a pelvic ultrasound that demonstrated a 6.2 x 2.9 x 3.5 
cm uterus with an endometrial thickness of 10 mm.  Her ovaries 
were not identified and there is no free fluid.  A Pap and HPV 
tests were negative for intraepithelial lesion or malignancy and 
high risk HPV negative on ___.  She was brought to 
the operating room at ___ for a D&C 
hysteroscopy and was found to have a grade 1 endometrial cancer 
on final pathology.  The slides have been received at ___ and 
are undergoing pathologic review currently.

Patient reports she is overall feeling well and at her baseline 
state of health.  She continues to have every other day light 
vaginal spotting.  She denies any significant abnormal vaginal 
discharge.  She denies any major changes in her weight, severe 
abdominal or pelvic discomfort, though notes for the last ___ 
years she has had a persistent dull ache in her right lower 
quadrant.  A complete 10 point review of systems is otherwise 
negative.

 
Past Medical History:
Past medical history: Asthma, hypertension, osteoarthritis, 
hypercholesterolemia, GERD, history of kidney stones, obesity

Health maintenance: Last mammogram in ___, last colonoscopy 
approximately ___ years ago.

Past surgical history:
-Age ___: Bunionectomies
-___: SMR, turbinate reduction deviated septum repair at ___ 
___
-Age ___: Tubal ligation
-___: Left total hip replacement at ___
-___: Hysteroscopy D&C

Past obstetric history: Gravida 0

Past gynecologic history: Menarche at age ___ with irregular but 
monthly menses lasting ___ days with moderate flow.  Menopause 
___ years ago with no history of postmenopausal bleeding until 
the isolated episode in ___ of last year and the summers 
bleeding as described above.  Denies history of abnormal Pap 
smears, last Pap as above in ___.  She is not sexually 
active.  No significant use of OCPs or HRT.  No other 
significant gynecologic infections or problems in the past.
 
Social History:
___
Family History:
Maternal aunt with breast cancer in her ___.  No family history 
of ovarian, uterine or colon cancer.  Diabetes and hypertension 
in her cousins.  Father deceased of heart disease.  Mom deceased 
of COPD with long history of smoking.  Patient has 2 healthy 
sisters.
 
Physical Exam:
On day of discharge:
Afebrile, vitals stable
No acute distress
CV: regular rate and rhythm
Pulm: clear to auscultation bilaterally
Abd: soft, appropriately tender, nondistended, incision 
clean/dry/intact, no rebound/guarding
___: nontender, nonedematous

 
Pertinent Results:
None
 
Brief Hospital Course:
Ms. ___ is a ___ year old woman who was admitted to the 
gynecologic oncology service after undergoing robotic-assisted 
total laparoscopic hysterectomy, bilateral 
salpingo-oopherectomy, and sentinal lymph node biopsy for grade 
1 endometrial adenocarcinoma. Please see the operative report 
for full details.  

Her post-operative course is detailed as follows. Immediately 
postoperatively, her pain was controlled with IV hydromorphone. 
Her diet was advanced without difficulty and she was 
transitioned to oral acetaminophen, ibuprofen, and oxycodone. On 
post-operative day #0, her urine output was adequate so her 
Foley catheter was removed and she voided spontaneously. 

By post-operative day #1, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with outpatient follow-up scheduled.
 
Medications on Admission:
-Lotrel ___ mg nightly
-Spironolactone 25 mg every morning
-Omeprazole 20 mg every morning
-Crestor 20 mg every morning
-Symbicort 2 puffs 6 AM
-Pro-air 2 puffs as needed
-Ibuprofen 600 mg as needed for osteoarthritis
-Vitamin D 5000 international units daily
-B complex daily
-Co. Q 10 200 milligrams daily
-Multivitamin
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
Do not take more than 4000mg in 24 hrs. 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every 6 hours 
Disp #*50 Tablet Refills:*1 
2.  Docusate Sodium 100 mg PO BID:PRN Constipation 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*90 Tablet Refills:*1 
3.  Ibuprofen 600 mg PO Q6H:PRN Pain 
Take with food. Do not take more 2400mg in 24 hrs. 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every 6 hours Disp 
#*50 Tablet Refills:*1 
4.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - Severe 
Do not drink alcohol or drive while taking narcotics. ___ make 
you drowsy. 
RX *oxycodone 5 mg 1 tablet(s) by mouth every 4 hours Disp #*30 
Tablet Refills:*0 
5.  amLODIPine 10 mg PO DAILY  
6.  Co Q-10 (coenzyme Q10) 200 mg oral DAILY  
7.  Enoxaparin Sodium 40 mg SC DAILY  
8.  Multivitamins 1 TAB PO DAILY  
9.  Omeprazole 20 mg PO DAILY:PRN acid reflux  
10.  Rosuvastatin Calcium 20 mg PO DAILY  
11.  Vitamin B Complex 1 CAP PO DAILY  
12.  Vitamin D 5000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Endometrial Cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecologic oncology service after 
undergoing the procedures listed below. You have recovered well 
after your operation, and the team feels that you are safe to be 
discharged home. Please follow these instructions: 
 
* Take your medications as prescribed. We recommend you take 
non-narcotics (i.e. Tylenol, ibuprofen) regularly for the first 
few days post-operatively, and use the narcotic as needed. As 
you start to feel better and need less medication, you should 
decrease/stop the narcotic first.
* Take a stool softener to prevent constipation. You were 
prescribed Colace. If you continue to feel constipated and have 
not had a bowel movement within 48hrs of leaving the hospital 
you can take a gentle laxative such as milk of magnesium.  
* Do not drive while taking narcotics.  
* Do not combine narcotic and sedative medications or alcohol.  
* Do not take more than 4000mg acetaminophen (tylenol) in 24 
hrs.  
* No strenuous activity until your post-op appointment.  
* Nothing in the vagina (no tampons, no douching, no sex) for 8 
weeks.
* No heavy lifting of objects >10 lbs for 4 weeks.  
* You may eat a regular diet.
* It is safe to walk up stairs.  
 
Followup Instructions:
___